US07776857B2
Step 1: N-(5-(7-Methoxyquinolin-4-ylamino)pyrimidin-2-yl)benzamide
In a screw cap test tube were dissolved 8-chloro-3-methoxy-1,5-naphthyridine (281 mg, 1443 mmol), N-(5-aminopyrimidin-2-yl)benzamide (281 mg, 1312 μmol) and pyridinium p-toluenesulfonate (494 mg, 1968 mmol) in butan-2-ol (2623 μl, 1312 μmol) then heated at 100° C. The reaction turned black in a minute. After 1 h, the reaction mixture showed full conversion to product according to LCMS. The reaction mixture was diluted with CH2Cl2, neutralized with sat. NaHCO3. An emulsion was formed but the two layers eventually separated. The aqueous phase was extracted 3 times with CH2Cl2, washed with brine, dried over MgSO4, filtered and evaporated under reduce pressure to give a tan solid. The solid was triturated with hexane, filtered, and dried under vacuo. Brown solid was collected. LCMS confirmed the presence of the product, N-(5-(7-methoxy-1,5-naphthyridin-4-ylamino)pyrimidin-2-yl)benzamide. MS Calcd for C20H16N6O2: [M]+=372. Found: [M+H]+=373.

reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 1443 mmol, 281 mg | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
reactant | N-(5-aminopyrimidin-2-yl)benzamide | 1312 μmol, 281 mg | NC=1C=NC(=NC1)NC(C1=CC=CC=C1)=O | C11H10N4O
reactant | pyridinium p-toluenesulfonate | 1968 mmol, 494 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | butan-2-ol | 1312 μmol, 2623 μl | CC(CC)O | C4H10O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-(5-(7-Methoxyquinolin-4-ylamino)pyrimidin-2-yl)benzamide | COC1=CC=C2C(=CC=NC2=C1)NC=1C=NC(=NC1)NC(C1=CC=CC=C1)=O | C21H17N5O2
